US07037916B2
To a solution of 4.6 mL of (2-bromoethyl)benzene in 70 mL ethyl ether at −70° C. was added 41.5 mL of tert-butyllithium. The mixture was slowly allowed to warm to −30° C. over 2 h, then cooled to −60° C. and treated with 5.0 g of 2,4-dichloropyrimidine The reaction was again slowly allowed to warm to −30° C. over 2 h, then quenched by the addition of 1.94 mL of acetic acid and 0.30 mL of water in 5 mL tetrahydrofuran. The mixture was treated with 7.6 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) in 25 mL THF and warmed to room temperature. The reaction was cooled to 0° C. and 13.4 mL of ice-cold 3 M NaOH was added to the mixture. After 5 minutes, the organic layer was separated and dried over sodium sulfate. The solvent was evaporated and the crude residue was chromatographed (2% to 10% EtOAc in hexanes) to give 4.0 g of 2,4-dichloro-6-phenethylpyrimidine.

reactant | (2-bromoethyl)benzene | 4.6 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | tert-butyllithium | 41.5 mL | C(C)(C)(C)[Li]
reactant | 2,4-dichloropyrimidine | 5.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | ethyl ether | 70 mL | C(C)OCC | C4H10O
product | 2,4-dichloro-6-phenethylpyrimidine | 4.0 g | ClC1=NC(=CC(=N1)Cl)CCC1=CC=CC=C1 | C12H10Cl2N2
